US05138060
A. N-[(2-methoxyphenyl)methyl]-2-phenylmethylene-1-azabicyclo[2.2.2]octan-3-imine
To a 12 L three neck round bottom flask (3nrbf) fitted with mechanical stirrer, thermometer, condenser, and Dean Stark trap, was charged 5.9 L toluene, 791.8 g (3.7 moles) of 2-phenylmethylene-1-azabicyclo[2.2.2]octan-3-one, 764 g (5.6 moles, 1.5 equivalents) 2-methoxybenzylamine, and 8.8 g (0.039 moles) (+)camphor sulfonic acid. The solution was heated to reflux (116° C.) and refluxed for 42 hours. A total of 75 ml water was collected in the Dean Stark trap showing that the reaction was proceeding. The solution containing the title product was cooled to room temperature.

reactant | 2-phenylmethylene-1-azabicyclo[2.2.2]octan-3-one | 3.7 moles, 791.8 g | C1(=CC=CC=C1)C=C1N2CCC(C1=O)CC2 | C14H15NO
reactant | 2-methoxybenzylamine | 5.6 moles, 764 g, 1.5 equivalents | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | (+)camphor sulfonic acid | 0.039 moles, 8.8 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 5.9 L | C1(=CC=CC=C1)C | C7H8
product | N-[(2-methoxyphenyl)methyl]-2-phenylmethylene-1-azabicyclo[2.2.2]octan-3-imine | COC1=C(C=CC=C1)CN=C1C(N2CCC1CC2)=CC2=CC=CC=C2 | C22H24N2O
